* SPDT switch

.subckt SPDT COM NO NC POS NEG vt=1.0 vh=0.25 ron=0.1 roff=1e12
S1 COM NO POS NEG MYSW1 OFF
S2 COM NC NEG POS MYSW2 ON
.model MYSW1 SW(Ron={ron} Roff={roff} Vh={vh} Vt={vt})
.model MYSW2 SW(Ron={ron} Roff={roff} Vh={vh} Vt={-vt})
.ends

