***************************************************************
*	Infineon	Technologies	AG
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX
*	VALID	UP	TO	15	GHZ
*	>>>	BFP450	<<<
*	(C)	2010	Infineon	Technologies	AG
*	Version 1.0	November	2010
***************************************************************
* - Please use the global SPICE parameter TEMP to set the junction
*   temperature of this device in your circuit to get correct DC
*   simulation results.
* - TEMP is calculated by TEMP=TA+P*(RthJS+RthSA). The junction
*   temperature TEMP is the sum of the ambient temperature TA and
*   the increment of temperature caused by the dissipated power
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage).
* - RthJS is the thermal resistance between the junction and the
*   soldering point. RthJS for this device is 450 K/W. RthSA is the
*   thermal resistance of the PCB, from the soldering point to the
*   ambient. For determination of RthSA please refer to Infineon's
*   Application Note "Thermal Resistance Calculation" AN077.
* - The model has been verified in the junction temperature range
*   -25°C to +125°C.
* - TNOM=25 °C is the nominal ambient temperature.
*   Please do not change this value.
****************************************************************
.OPTION TNOM=25, GMIN= 1.00e-12
*BFP450FESD C B E
.SUBCKT BFP450 1 2 3


CBEPAR 22 33 1.20132E-013
CBCPAR 22 11 3.02378E-013
CCEPAR 11 33 3.69684E-017
LB    22 20 9.04235E-010
LE   33 30 2.03283E-010
LC   11 10  2.12462E-010
CBEPCK 20 30  1.10618E-014
CBCPCK 20 10  2.51536E-014
CCEPCK 10 30  2.24704E-013
LBX    20 2 1.18397E-012
LEX   30 3 2.31137E-013
LCX   10 1  7.74176E-010
RSUB 30 44 260


Q1 11 22 33 44 M_BFP450



.MODEL 	M_BFP450	NPN(
+	IS	=	1.21E-016
+	BF	=	112.3
+	NF	=	1
+	VAF	=	46.19
+	IKF	=	1.005
+	ISE	=	2.427E-014
+	NE	=	2
+	BR	=	4.66
+	NR	=	1
+	VAR	=	3.604
+	IKR	=	0.1924
+	ISC	=	3.85E-015
+	NC	=	1.5
+	RB	=	3.193
+	IRB	=	0
+	RBM	=	2.725
+	RE	=	0.09391
+	RC	=	1.578
+	XTB	=	0.04525
+	EG	=	1.12
+	XTI	=	4.267
+	CJE	=	1.777E-012
+	VJE	=	0.7811
+	MJE	=	0.39
+	TF	=	4.125E-012
+	XTF	=	8.008
+	VTF	=	4.189
+	ITF	=	1.889
+	PTF	=	0.1
+	CJC	=	5.069E-013
+	VJC	=	0.6403
+	MJC	=	0.31
+	XCJC	=	0.7031
+	TR	=	4.163E-009
+	CJS	=	1.66361E-012
+	MJS	=	0.154738
+   VJS =   0.2526
+	FC	=	0.5
+	KF	=	5.5e-12
+	AF	=	1.99)
***************************************************************


.ENDS BFP450
